US04267181
2-isopropylamino-5-fluoro pyrimidine
Stoichiometric proportions of 2-isopropylamino-5-bromo-pyrimidine, prepared as described in example 1, and potassium fluoride were reacted together for 5 hours. After appropriate working up, the title compound was obtained as a white powder in a yield of 83%. Elemental analysis showed that the compound had the expected empirical formula of C7H10N3F.

reactant | 2-isopropylamino-5-bromo-pyrimidine | C(C)(C)NC1=NC=C(C=N1)Br | C7H10BrN3
reactant | potassium fluoride | [F-].[K+]
product | 2-isopropylamino-5-fluoro pyrimidine | yield of 83% | C(C)(C)NC1=NC=C(C=N1)F | C7H10FN3
